US06949544B2
A mixture of aniline (11 mmol), cyanamide (420 mg, 10 mmol), and HCl (3 mL of 4N in dioxane, 12 mmol) in 1,4-dioxane (10 mL) was heated in a sealed tube at 60° C. overnight. The reaction was concentrated in vacuo and the residue partitioned between NaOH (2N) and dichloromethane. The organic layer was dried over Na2SO4 and concentrated in vacuo to afford N-phenyl-guanidine.

reactant | aniline | 11 mmol | NC1=CC=CC=C1 | C6H7N
reactant | cyanamide | 10 mmol, 420 mg | N#CN | CH2N2
reactant | HCl | 12 mmol, 4N, 3 mL | Cl | ClH
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | N-phenyl-guanidine | C1(=CC=CC=C1)NC(=N)N | C7H9N3
